US07741347B2
Pb(NO3)2 (6.06 g, 18.3 mmol) was added over 1 min to a CH2Cl2 (80 mL) solution of (S)-1-benzyl 4-methyl 2-aminosuccinate (4.50 g, 19.0 mmol), 9-bromo-9-phenyl-9H-fluorene (6.44 g, 20.0 mmol) and Et3N (3.0 mL, 21.5 mmol), and the heterogeneous mixture was stirred at ambient condition for 48 hr. The mixture was filtered and the filtrate was treated with MgSO4 and filtered again, and the final filtrate was concentrated. The resulting crude material was submitted to a Biotage purification (350 g silica gel, CH2Cl2 elution) to afford (S)-1-benzyl 4-methyl 2-(9-phenyl-9H-fluoren-9-ylamino)succinate as highly viscous colorless oil (7.93 g). 1H NMR (DMSO-d6, δ=2.5 ppm, 400 MHz): δ 7.82 (m, 2H), 7.39-7.13 (m, 16H), 4.71 (d, J=12.4, 1H), 4.51 (d, J=12.6, 1H), 3.78 (d, J=9.1, NH), 3.50 (s, 3H), 2.99 (m, 1H), 2.50-2.41 (m, 2H, partially overlapped with solvent). LC (Cond. 1): RT=2.16 min; LC/MS: Anal. Calcd. for [M+H]+ C31H28NO4: 478.20. found 478.19.

reactant | (S)-1-benzyl 4-methyl 2-aminosuccinate | 19.0 mmol, 4.50 g | N[C@H](C(=O)OCC1=CC=CC=C1)CC(=O)OC | C12H15NO4
reactant | 9-bromo-9-phenyl-9H-fluorene | 20.0 mmol, 6.44 g | BrC1(C2=CC=CC=C2C=2C=CC=CC12)C1=CC=CC=C1 | C19H13Br
reactant | Et3N | 21.5 mmol, 3.0 mL | CCN(CC)CC | C6H15N
solvent | CH2Cl2 | 80 mL | C(Cl)Cl | CH2Cl2
product | (S)-1-benzyl 4-methyl 2-(9-phenyl-9H-fluoren-9-ylamino)succinate | C1(=CC=CC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)N[C@H](C(=O)OCC1=CC=CC=C1)CC(=O)OC | C31H27NO4
